US09302996B2
N,N-dimethylformamide (10 mL) was added to 5-chloropyrazine-2-carbaldehyde (500 mg), methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate (1410 mg) and 2N aqueous sodium carbonate solution (5.26 mL), and after replacing the atmosphere with nitrogen, palladium chloride (dppf) methylene chloride complex (143 mg) was added to the mixture and the resulting mixture was stirred at 65° C. for 2 hours. To the reaction mixture were added ethyl acetate and water, and the liquids were separated. After filtration with Celite, the organic layer was separated, washed with water and then with a saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 70:30) to obtain methyl 3-{[5-(5-formylpyrazin-2-yl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate (855 mg).

reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | 5-chloropyrazine-2-carbaldehyde | 500 mg | ClC=1N=CC(=NC1)C=O | C5H3ClN2O
reactant | methyl 2,2-dimethyl-3-{[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}propanoate | 1410 mg | CC(C(=O)OC)(COC1=NC=C(C(=C1)C)B1OC(C(O1)(C)C)(C)C)C | C18H28BNO5
reactant | sodium carbonate | 2N, 5.26 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-{[5-(5-formylpyrazin-2-yl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate | 855 mg | C(=O)C=1N=CC(=NC1)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C | C17H19N3O4
